US06552188B2
Synthesis of (E)-5-bromo-1-(3,4,5-trimethoxyphenyl)-1-pentene
3,4,5-Trimethoxybenzaldehyde (9.81 g) and 4-bromobutyltriphenylphosphonium bromide (23.93 g) were treated in the same manner as in Preparation Example 83 to obtain the title compound.

reactant | 3,4,5-Trimethoxybenzaldehyde | 9.81 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 4-bromobutyltriphenylphosphonium bromide | 23.93 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (E)-5-bromo-1-(3,4,5-trimethoxyphenyl)-1-pentene | BrCCC/C=C/C1=CC(=C(C(=C1)OC)OC)OC | C14H19BrO3
